US04550105
In a mixture of 25 ml of ethanol and 5 ml of N,N-dimethylformamide is suspended 525 mg of cis-3-[2-(2- chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-(2-methylsulfonylethoxycarbonylaminomethyl)-2-oxoazetidine (syn-isomer) as obtained in Reference Example 119C, followed by addition of 5 ml of ethanolic sodium hydroxide (0.5N). The mixture is stirred at room temperature for 20 minutes, after which 2.5 ml of 1N HCl is added. The ethanol is distilled off under reduced pressure and the residue is dissolved in a mixture of 8 ml of water and 10 ml of tetrrahydrofuran. Under ice-cooling and stirring, 185 mg of sodium hydrogen carbonate is added, followed by dropwise addition of a solution of 432 mg of p-nitrobenzyl chloroformate in 10 ml of tetrahydrofuran over 50 minutes. The mixture is stirred under ice-cooling for 20 minutes and to this reaction mixture are added 10 ml of water and 20 ml of ethyl acetate. The mixture is shaken well, whereupon the organic layer separates out. The aqueous layer is extracted with ethyl acetate and this ethyl acetate extract and the above organic layer are combined, washed with aqueous sodium chloride and dried over anhydrous magnesium sulfate. The solvent is crystallized from ethyl acetate and recovered by filtration to give cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-(p-nitrobenzyloxycarbonylaminomethyl)-2-oxoazetidine (syn-isomer), m.p. 235°-245° C.(decomp.).

reactant | cis-3-[2-(2- chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-(2-methylsulfonylethoxycarbonylaminomethyl)-2-oxoazetidine | 525 mg | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N[C@@H]1CNC(=O)OCCS(=O)(=O)C)=O)=NOC | C16H21ClN6O8S2
reactant | sodium hydroxide | 0.5N, 5 ml | [OH-].[Na+]
reactant | HCl | 1N, 2.5 ml | Cl | ClH
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | cis-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-(p-nitrobenzyloxycarbonylaminomethyl)-2-oxoazetidine | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N[C@@H]1CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)=NOC | C20H20ClN7O8S
